US05688929
20 ml of 2.5N sodium hydroxide are added to 240 mg (0.51 mmol) of n-decyl n-decyl β-D-galactofuranoside uronate solubilized in 5 ml of THF and the mixture is allowed to stand at room temperature for 3 hours. 30 ml of ethyl ether are added and then after decanting, the aqueous phase is washed with 30 ml of ethyl ether. The aqueous phase is acidified with 50% HCl at 0° C. to pH=2 and then extracted three times with 30 ml of ethyl acetate. The organic phases are pooled, washed with 30 ml of water, dried over magnesium sulphate (2 g) and evaporated. 140 mg of n-decyl β-D-galactofuranoside uronic acid are then obtained (82% yield) in the form of a gum. *Rf=0.67 (dichloromethane/methanol-1/1-v/v) *13C NMR in CD3OD

reactant | sodium hydroxide | 2.5N, 20 ml | [OH-].[Na+]
reactant | n-decyl n-decyl β-D-galactofuranoside uronate | 0.51 mmol, 240 mg | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O1)[C@H](O)C(=O)OCCCCCCCCCC)CCCCCCCCCC | C26H50O7
reactant | ethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | n-decyl β-D-galactofuranoside uronic acid | 140 mg, 82% yield | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O1)[C@H](O)C(=O)O)CCCCCCCCCC | C16H30O7
